US07691882B2
2-Benzyl-5-[1,3]dioxolan-2-yl-pyridine
To a suspension of zinc (5.0 g, 77 mmol, highly reactive Rieke metal, 100 mL tetrahydrofuran suspension) and tetrahydrofuran (300 mL) was added dropwise benzyl bromide (7.9 mL, 66 mmol) at 0° C., which was stirred for 4 hours at the same temperature. To this suspension were added bis(triphenylphosphine)nickel (II) chloride (5.8 g, 8.8 mmol) and 2-bromo-5-[1,3]dioxolan-2-yl-pyridine (11 g, 49 mmol) described in Manufacturing Example 210-1-2, which was stirred for another 2 hours at room temperature. The reaction solution was partitioned into ethyl acetate and an ammonium chloride aqueous solution. The organic layer was separated and concentrated under a reduced pressure. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1, 1:1) to obtain the title compound (7.3 g, 62%).

reactant | benzyl bromide | 66 mmol, 7.9 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2-bromo-5-[1,3]dioxolan-2-yl-pyridine | 49 mmol, 11 g | BrC1=NC=C(C=C1)C1OCCO1 | C8H8BrNO2
catalyst | zinc | [Zn] | Zn
catalyst | bis(triphenylphosphine)nickel (II) chloride | 8.8 mmol, 5.8 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Cl-].[Cl-].[Ni+2]
solvent | tetrahydrofuran | 300 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-Benzyl-5-[1,3]dioxolan-2-yl-pyridine | 7.3 g, 62% | C(C1=CC=CC=C1)C1=NC=C(C=C1)C1OCCO1 | C15H15NO2
